US04462923
23.9 g of trans-4-propylcyclohexanecarboxamidine hydrochloride and 25.2 g of diethyl ethoxymethylene-malonate are added to a sodium ethylate solution prepared from 5.4 g of sodium and 210 ml of ethanol and the mixture is diluted with 150 ml of ethanol. The mixture is stirred at room temperature for 50 minutes and at boiling temperature for 50 minutes and, after cooling, evaporated in vacuo. The viscid residue is suspended in 600 ml of water and acidified with 60 ml of glacial acetic acid. Subsequently, the suspension is stirred for 1.5 hours in an ice-bath and suction filtered. The material on the suction filter is washed with water and dried at 50° C. in vacuo over potassium hydroxide. There are obtained 33 g of ethyl trans-4-hydroxy-2-(4-propylcyclohexyl)-5-pyrimidinecarboxylate; m.p. 156°-157° C.

reactant | trans-4-propylcyclohexanecarboxamidine hydrochloride | 23.9 g | Cl.C(CC)[C@@H]1CC[C@H](CC1)C(=N)N
reactant | diethyl ethoxymethylene-malonate | 25.2 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | sodium ethylate solution | CC[O-].[Na+]
reactant | sodium | 5.4 g | [Na] | Na
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | ethanol | 210 ml | C(C)O | C2H6O
product | ethyl trans-4-hydroxy-2-(4-propylcyclohexyl)-5-pyrimidinecarboxylate | 33 g | OC1=NC(=NC=C1C(=O)OCC)[C@@H]1CC[C@H](CC1)CCC | C16H24N2O3
